US06303600B1
N-(3,5-Dichloro-pyridin-4-yl)-3-formyl-1H-indole-6-carboxamide
A stirred solution of dimethylformamide (10 ml), under nitrogen and at 0° C., was treated with phosphorus oxychloride (0.6 ml). After stirring for 30 minutes at 0° C. the mixture was treated with a solution of N-(3,5-dichloro-pyridin-4-yl)-1H-indole-6-carboxamide [1.55 g, Example 1(bg)] in dimethylformamide (5 ml). The mixture was then heated at 40° C. for 45 minutes then cooled to room temperature and then partitioned between ethyl acetate (25 ml) and saturated sodium bicarbonate (50 ml). The organic layer was washed with water (75 ml) then dried over sodium sulphate then evaporated. The residue was subjected to flash chromatography on silica eluting with a mixture of ethyl acetate and hexane (1:2, v/v) to yield the title compound (0.53 g) as a white solid. [Elemental analysis:—C,53.83; H,2.99; N,12.31%. Calculated for C15H9Cl2N3O2:—C,53.92; H,2.71; N,12.57%].

reactant | phosphorus oxychloride | 0.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-(3,5-dichloro-pyridin-4-yl)-1H-indole-6-carboxamide | 1.55 g | ClC=1C=NC=C(C1NC(=O)C1=CC=C2C=CNC2=C1)Cl | C14H9Cl2N3O
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(3,5-Dichloro-pyridin-4-yl)-3-formyl-1H-indole-6-carboxamide | 0.53 g | ClC=1C=NC=C(C1NC(=O)C1=CC=C2C(=CNC2=C1)C=O)Cl | C15H9Cl2N3O2
